US05380848
3β-(3'-Methyl-4'-fluorophenyl)tropan-2β-carboxylic Acid Methyl Ester (7, X=F, Y=CH3)
The title compound was prepared by modification of a reported procedure used to prepare other similar compounds.refThus, using anhydroecgonine methyl ester (500 mg, 2.76 mmol) and 3-methyl-4-fluorophenyl magnesium bromide (prepared from 200 mg of magnesium metal and 1 mL of 3-methyl-4-fluoro-1-bromobenzene) yielded 234 mg (29%) of the title compound. The hydrochloride salt had mp 163°-165° C.; [α]D25 -103.8° (c 0.08, MeOH); 1H NMR of free base of 41 (250 MHz, CDCl3) δ1.67 (m, 3), 2.15 (m, 2), 2.19 is, 3, CH3), 2.20 is, 3, NCH3), 2.55 (m, 2), 2.87 (m, 1, H-2), 2.93 (m, 1, H-3), 3.35 (m, 1, H-5), 3.49 (s, 3, OCH3), 3.55 (m, 1, H-1), 6.85, 6.97 (m, 3, C6H3).

reactant | anhydroecgonine methyl ester | 2.76 mmol, 500 mg | CN1[C@H]2CC[C@@H]1C(=CC2)C(=O)OC | C10H15NO2
reactant | 3-methyl-4-fluorophenyl magnesium bromide | 1 mL, 200 mg | CC=1C=C(C=CC1F)[Mg]Br
product | 3β-(3'-Methyl-4'-fluorophenyl)tropan-2β-carboxylic Acid Methyl Ester | 234 mg, 29% | COC(=O)[C@@H]1[C@H]2CC[C@@H](C[C@@H]1C1=CC(=C(C=C1)F)C)N2C | C17H22FNO2
